US08357679B2
C: 1-(3-((4-(4-(1,1,1,3,3,3-Hexafluoro-2-hydroxypropan-2-yl)benzyl)piperazin-1-yl)methyl)phenyl)-3-(pyridin-4-yl)urea
A mixture of phenyl pyridin-4-ylcarbamate (1.173 mmol, 251 mg) and 2-(4-((4-(3-aminobenzyl)piperazin-1-yl)methyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol (0.782 mmol, 350 mg) in dioxane was heated in a Reactivial at 100° C. for 3 days. The reaction was then concentrated under reduced pressure. Chromatography on silica eluting with a gradient of dichloromethane to dichloromethane/methanol gave the title compound (100 mg). MS (ESI) m/z 568.5 [M+H]+

reactant | phenyl pyridin-4-ylcarbamate | 1.173 mmol, 251 mg | N1=CC=C(C=C1)NC(OC1=CC=CC=C1)=O | C12H10N2O2
reactant | 2-(4-((4-(3-aminobenzyl)piperazin-1-yl)methyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol | 0.782 mmol, 350 mg | NC=1C=C(CN2CCN(CC2)CC2=CC=C(C=C2)C(C(F)(F)F)(C(F)(F)F)O)C=CC1 | C21H23F6N3O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 1-(3-((4-(4-(1,1,1,3,3,3-Hexafluoro-2-hydroxypropan-2-yl)benzyl)piperazin-1-yl)methyl)phenyl)-3-(pyridin-4-yl)urea | 100 mg | FC(C(C(F)(F)F)(O)C1=CC=C(CN2CCN(CC2)CC=2C=C(C=CC2)NC(=O)NC2=CC=NC=C2)C=C1)(F)F | C27H27F6N5O2
